US08357711B2
6-(2-Fluorobenzyl)-1,4-oxazepan-6-ol Hydrochloride
tert-Butyl 6-(2-fluorobenzyl)-6-hydroxy-1,4-oxazepane-4-carboxylate (Preparation 45, 38 g, 0.12 mol, 1 eq) was dissolved in dioxane (200 mL), and 4M hydrogen chloride/dioxane (60.4 mL, 0.24 mol, 2 eq) was added. The mixture was stirred for 24 h, evaporated, and coevaporated with ether. The formed precipitate was washed with ether and dried to give title compound (29.8 g, 0.11 mol, 95%).

reactant | tert-Butyl 6-(2-fluorobenzyl)-6-hydroxy-1,4-oxazepane-4-carboxylate | 0.12 mol, 38 g, 1 eq | FC1=C(CC2(CN(CCOC2)C(=O)OC(C)(C)C)O)C=CC=C1 | C17H24FNO4
reactant | hydrogen chloride dioxane | 0.24 mol, 4M, 60.4 mL, 2 eq | Cl.O1CCOCC1
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
product | 6-(2-Fluorobenzyl)-1,4-oxazepan-6-ol Hydrochloride | 0.11 mol, 29.8 g, 95% | Cl.FC1=C(CC2(CNCCOC2)O)C=CC=C1 | InChI=1S/C12H16FNO2.ClH/c13-11-4-2-1-3-10(11)7-12(15)8-14-5-6-16-9-12;/h1-4,14-15H,5-9H2;1H
